datasets/RMG-dataset.csv
rxn,Ea
[C:0]([C:1]([O:2][O:3])([C:4]([C:5]([H:13])([H:14])[H:15])([O:6][O:7][H:16])[H:12])[H:11])([H:8])([H:9])[H:10]>>[C:0](=[C:1]([C:4]([C:5]([H:13])([H:14])[H:15])([O:6][O:7][H:16])[H:12])[H:11])([H:9])[H:10].[O:2][O:3][H:8],127.1936
[C:0](#[C:1][C:2]([C:3]([H:12])([H:13])[H:14])=[C:4]([C:5]([C:6]([C:7]([C:8]([H:20])([H:21])[H:22])[C:9](=[C:10]([H:24])[H:25])[H:23])([H:18])[H:19])([H:16])[H:17])[H:15])[H:11]>>[C:0](#[C:1][C:2]1([C:3]([H:12])([H:13])[H:14])[C:4]([H:15])[C:5]([H:16])([H:17])[C:6]([H:18])([H:19])[C:7]1([C:8]([H:20])([H:21])[H:22])[C:9](=[C:10]([H:24])[H:25])[H:23])[H:11],111.127
[C:0]1([H:10])=[C:1]([H:11])[C:2]([H:12])=[C:3]2[C:4]([H:13])=[C:5]([H:14])[C:6]([H:15])([H:16])[C:7]2([H:17])[C:8]([H:18])=[C:9]1[H:19].[H:20]>>[C:0]1([H:10])=[C:1]([H:11])[C:2]([H:12])[C:3]2([H:20])[C:4]([H:13])=[C:5]([H:14])[C:6]([H:15])([H:16])[C:7]2([H:17])[C:8]([H:18])=[C:9]1[H:19],7.9496
[C:0](#[C:1][C:2]([C:3]#[C:4][H:7])[H:6])[H:5].[C:8](=[C:9]([S:10][H:14])[H:13])([H:11])[H:12]>>[C:0](#[C:1][C:2]([C:3]#[C:4][H:7])([H:6])[H:14])[H:5].[C:8](=[C:9]([S:10])[H:13])([H:11])[H:12],32.6352
[C:0](=[C:1]([C:2]([H:5])([H:6])[H:7])[H:4])[H:3].[O:8][H:9]>>[C:0](#[C:1][C:2]([H:5])([H:6])[H:7])[H:3].[H:4][O:8][H:9],0.0
[C:0]([C:1]([C:2]([H:11])([H:12])[H:13])([C:3]([C:4]([O:5][O:6])([H:16])[H:17])([H:14])[H:15])[H:10])([H:7])([H:8])[H:9]>>[C:0]([C:1]([C:2]([H:11])([H:12])[H:13])([C:3]([C:4]([O:5][O:6][H:14])([H:16])[H:17])[H:15])[H:10])([H:7])([H:8])[H:9],125.9384
[C:0](#[C:1][C:2]([S:3][H:6])[H:5])[H:4].[S:7]=[C:8]([S:9][H:11])[H:10]>>[C:0](#[C:1][C:2]([S:3][H:6])([H:5])[H:11])[H:4].[S:7]=[C:8]([S:9])[H:10],19.2464
[C:0]([C:1]([C:2]([C:3]1([H:16])[C:4]([H:17])([H:18])[C:5]([H:19])([H:20])[C:6]([H:21])([H:22])[C:7]([H:23])([H:24])[C:8]1([H:25])[H:26])([H:14])[H:15])([H:12])[H:13])([H:9])([H:10])[H:11].[O:27][O:28]>>[C:0]([C:1]([C:2]([C:3]1([H:16])[C:4]([H:18])[C:5]([H:19])([H:20])[C:6]([H:21])([H:22])[C:7]([H:23])([H:24])[C:8]1([H:25])[H:26])([H:14])[H:15])([H:12])[H:13])([H:9])([H:10])[H:11].[H:17][O:27][O:28],199.11656
[C:0](#[C:1][C:2](=[C:3]([C:4]([H:13])([H:14])[H:15])[c:5]1[c:6]([H:16])[c:7]([H:17])[c:8]([H:18])[c:9]([H:19])[c:10]1[H:20])[H:12])[H:11].[C:21]([C:22](=[C:23]([H:27])[H:28])[H:26])([H:24])[H:25]>>[C:0](#[C:1][C:2]([C:3]([C:4]([H:13])([H:14])[H:15])([c:5]1[c:6]([H:16])[c:7]([H:17])[c:8]([H:18])[c:9]([H:19])[c:10]1[H:20])[C:21]([C:22](=[C:23]([H:27])[H:28])[H:26])([H:24])[H:25])[H:12])[H:11],53.3878
[C:0](=[C:1]=[C:2]([C:3]([H:8])([H:9])[H:10])[C:4](=[C:5]([H:12])[H:13])[H:11])([H:6])[H:7].[C:14](=[C:15]([C:16]([C:17]([H:22])([H:23])[H:24])[H:21])[H:20])([H:18])[H:19]>>[C:0](=[C:1][C:2]([C:3]([H:8])([H:9])[H:10])([C:4](=[C:5]([H:12])[H:13])[H:11])[C:16]([C:15](=[C:14]([H:18])[H:19])[H:20])([C:17]([H:22])([H:23])[H:24])[H:21])([H:6])[H:7],61.6722
[C:0]([C:1]([C:2]([H:7])([H:8])[H:9])[H:6])([H:3])([H:4])[H:5].[C:10]([O:11][H:14])([H:12])[H:13]>>[C:0]([C:1]([C:2]([H:7])([H:8])[H:9])([H:6])[H:14])([H:3])([H:4])[H:5].[C:10](=[O:11])([H:12])[H:13],0.0
[C:0](#[C:1][C:2]([C:3]([H:7])([H:8])[H:9])([S:4][H:10])[H:6])[H:5].[C:11](=[C:12]([C:13]([S:14][H:19])[H:18])[H:17])([H:15])[H:16]>>[C:0](#[C:1][C:2]([C:3]([H:7])([H:8])[H:9])[S:4][H:10])[H:5].[H:6][C:13]([C:12](=[C:11]([H:15])[H:16])[H:17])([S:14][H:19])[H:18],21.0874
[C:0]([C:1]([C:2]([H:11])([H:12])[H:13])([C:3]([C:4]([O:5][O:6])([H:16])[H:17])([H:14])[H:15])[H:10])([H:7])([H:8])[H:9].[O:18][O:19][H:20]>>[C:0]([C:1]([C:2]([H:11])([H:12])[H:13])([C:3]([C:4]([O:5][O:6][H:20])([H:16])[H:17])([H:14])[H:15])[H:10])([H:7])([H:8])[H:9].[O:18][O:19],-13.7026
[C:0](#[C:1][c:2]1[c:3]([H:9])[c:4]([H:10])[c:5]([H:11])[c:6]([H:12])[c:7]1[H:13])[H:8].[O:14][H:15]>>[C:0](#[C:1][c:2]1[c:3][c:4]([H:10])[c:5]([H:11])[c:6]([H:12])[c:7]1[H:13])[H:8].[H:9][O:14][H:15],19.1233
[C:0](=[C:1]([C:2]([C:3](=[C:4]([H:11])[H:12])[H:10])=[C:5]([C:6]([H:14])([H:15])[H:16])[H:13])[H:9])([H:7])[H:8].[C:17]([C:18](=[C:19]([H:23])[H:24])[H:22])([H:20])[H:21]>>[C:0](=[C:1]([C:2]([C:3](=[C:4]([H:11])[H:12])[H:10])[C:5]([C:6]([H:14])([H:15])[H:16])([H:13])[C:17]([C:18](=[C:19]([H:23])[H:24])[H:22])([H:20])[H:21])[H:9])([H:7])[H:8],37.5305
[C:0]([C:1]([C:2]([C:3]1([H:16])[C:4]([H:17])([H:18])[C:5]([H:19])([H:20])[C:6]([H:21])([H:22])[C:7]([H:23])([H:24])[C:8]1([H:25])[H:26])([H:14])[H:15])([H:12])[H:13])([H:9])([H:10])[H:11].[C:27]([H:28])([H:29])[H:30]>>[C:0]([C:1]([C:2]([C:3]1([H:16])[C:4]([H:17])([H:18])[C:5]([H:19])([H:20])[C:6]([H:21])([H:22])[C:7]([H:23])([H:24])[C:8]1([H:25])[H:26])([H:14])[H:15])([H:12])[H:13])([H:10])[H:11].[H:9][C:27]([H:28])([H:29])[H:30],48.810544
[N:0]([O:1][H:4])([H:2])[H:3].[O:5]>>[H:4][O:5].[N:0]([O:1])([H:2])[H:3],103.596
[C:0](#[C:1][C:2]#[C:3][H:5])[H:4].[C:6]([C:7]([c:8]1[c:9]([H:18])[c:10]([H:19])[c:11]([H:20])[c:12]([H:21])[c:13]1[H:22])[H:17])([H:14])([H:15])[H:16]>>[C:0](=[C:1]([C:2]#[C:3][H:5])[C:7]([C:6]([H:14])([H:15])[H:16])([c:8]1[c:9]([H:18])[c:10]([H:19])[c:11]([H:20])[c:12]([H:21])[c:13]1[H:22])[H:17])[H:4],48.5344
